US06562849B1
1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-n-hexylurea (exemplification compound number 2-5)
A mixture of 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg), n-hexyl isocyanate (280 mg), triethylamine (153 mg) and anhydrous N,N-dimethylformamide (8 ml) was stirred at room temperature for 7 hours and then allowed to stand overnight. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate/n-hexane=3:1→4:1→ethyl acetate→ethyl acetate:methanol=15:1 as the eluant. The product was recrystallized from ethyl acetate to afford the title compound (298 mg, mp 143.7-146.9° C.).

reactant | 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1
reactant | n-hexyl isocyanate | 280 mg | C(CCCCC)N=C=O | C7H13NO
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(3-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)-3-n-hexylurea | 298 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC=3C=C(C=CC3)NC(=O)NCCCCCC)C=C1 | C32H35N5O5S
